US07473701B2
N-(N-tert-Butoxycarbonyl-3-methyl-1H-indazol-5-yl)-3-fluorobenzenesulfonamide can be obtained as described in Example 1 from 0.9 g of 5-amino-N-tert-butoxycarbonyl-3-methyl-1H-indazole, 40 ml of tetrahydrofuran, 1 ml of triethylamine and 0.78 g of 3-fluorobenzenesulfonyl chloride. 0.1 g of N-(N-tert-butoxycarbonyl-3-methyl-1H-indazol-5-yl)-3-fluorobenzenesulfonamide is thus obtained in the form of a cream solid melting at 195° C.

reactant | 5-amino-N-tert-butoxycarbonyl-3-methyl-1H-indazole | 0.9 g | NC=1C=C2C(=NN(C2=CC1)C(=O)OC(C)(C)C)C | C13H17N3O2
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
reactant | 3-fluorobenzenesulfonyl chloride | 0.78 g | FC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | N-(N-tert-butoxycarbonyl-3-methyl-1H-indazol-5-yl)-3-fluorobenzenesulfonamide | 0.1 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)NS(=O)(=O)C1=CC(=CC=C1)F)C | C19H20FN3O4S
